US06426345B1
A mixture of 2-chloro-3-nitropyridine (1.15 g), 3-[(E)-2-(3-aminophenyl)vinyl]pyridine (1.23 g) and potassium carbonate (1.1 g) in 1,4-dioxane (15 ml) was stirred under reflux for 22 hours. After cooling, insoluble materials were removed by filtration and the filtrate was concentrated. The residue was chromatographed on silica gel column (2% methanol in chloroform) to give 3-nitro-2-[3-[(E)-2-(3-pyridyl)vinyl]phenylamino]pyridine (510 mg) as an orange solid.

reactant | 2-chloro-3-nitropyridine | 1.15 g | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | 3-[(E)-2-(3-aminophenyl)vinyl]pyridine | 1.23 g | NC=1C=C(C=CC1)/C=C/C=1C=NC=CC1 | C13H12N2
reactant | potassium carbonate | 1.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | 3-nitro-2-[3-[(E)-2-(3-pyridyl)vinyl]phenylamino]pyridine | 510 mg | [N+](=O)([O-])C=1C(=NC=CC1)NC1=CC(=CC=C1)\C=C\C=1C=NC=CC1 | C18H14N4O2
